US04820715
2-(2-Acetoxyethoxy)-4-amino-5-chloro-N-[2-(diethylamino)ethyl]-benzamide
A solution of the tetrabutylammonium salt of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide (5.27 g, 10 mmoles) (prepared in Preparation No. 3) in acetonitrile (100 ml) and 2-bromoethylacetate (2 g, 12 mmoles) was stirred for 48 hours. The solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic layer was washed with ice-cold 0.4N sodium hydroxide solution, water, dried and the solvent evaporated. The residue was chromatographed over deactivated silica using methylene chloride (100 ), methanol (2), ammonia (0.5) solvent system. The appropriate fractions were combined and the solvent evaporated to leave a residue of 3.18 g (85%) of the title compound. Crystallization from toluene gave a sample, mp. 101°-102° C.

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | 10 mmoles, 5.27 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | 2-bromoethylacetate | 12 mmoles, 2 g | BrCCOC(C)=O | C4H7BrO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(2-Acetoxyethoxy)-4-amino-5-chloro-N-[2-(diethylamino)ethyl]-benzamide | 3.18 g, 85% | C(C)(=O)OCCOC1=C(C(=O)NCCN(CC)CC)C=C(C(=C1)N)Cl | C17H26ClN3O4
